US08981085B2
6N HCl (5.56 mL, 33.4 mmol) was added to a solution of diethyl trans-1-benzyl-4-methoxypiperidin-3-ylphosphoramidate (1.7 g, 4.77 mmol) in dioxane (5 mL) at room temperature and stirred at 66° C. (bath) for 2 hours. The solvent was removed in vacuo, and the residue obtained was dissolved in THF (5 mL) and a 6N NaOH solution (7 mL). Boc2O (2.08 g, 9.54 mmol) was added, and the reaction mixture was stirred at room temperature for 1 hour. Ethyl acetate (20 mL) was added, and the organic layer was separated, dried (sodium sulfate) and concentrated in vacuo. The residue obtained was purified by flash chromatography on silica gel (hexane:ethyl acetate 3:1) to give tert-butyl trans-1-benzyl-4-methoxypiperidin-3-ylcarbamate (1.37 g, 90%) as an oil.

reactant | HCl | 33.4 mmol, 6N, 5.56 mL | Cl | ClH
reactant | diethyl trans-1-benzyl-4-methoxypiperidin-3-ylphosphoramidate | 4.77 mmol, 1.7 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](CC1)OC)NP(OCC)(OCC)=O | C17H29N2O4P
reactant | NaOH | 6N, 7 mL | [OH-].[Na+]
reactant | Boc2O | 9.54 mmol, 2.08 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl trans-1-benzyl-4-methoxypiperidin-3-ylcarbamate | 1.37 g, 90% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](CC1)OC)NC(OC(C)(C)C)=O | C18H28N2O3
